US08058447B2
Ethyl 2-[(6-fluoro-2-methyl-4-oxo-4H-chromen-8-yl)methylene]-3-oxobutanoate
The title compound is prepared in analogy to example 25 (stage 25a) starting from 6-fluoro-2-methyl-4-oxo-4H-chromene-8-carbaldehyde (2.18 g, 10.62 mmol) and ethyl acetoacetate (1.33 g, 10.62 mmol). 3.30 g (98% of theory) of the title compound are obtained as an E/Z isomer mixture.

reactant | 6-fluoro-2-methyl-4-oxo-4H-chromene-8-carbaldehyde | 10.62 mmol, 2.18 g | FC=1C=C2C(C=C(OC2=C(C1)C=O)C)=O | C11H7FO3
reactant | ethyl acetoacetate | 10.62 mmol, 1.33 g | C(CC(=O)C)(=O)OCC | C6H10O3
product | Ethyl 2-[(6-fluoro-2-methyl-4-oxo-4H-chromen-8-yl)methylene]-3-oxobutanoate | FC=1C=C2C(C=C(OC2=C(C1)C=C(C(=O)OCC)C(C)=O)C)=O | C17H15FO5
